US05763611
I. Synthesis of Dihydro-1-pyrindine-6,6-diphosphonic acid tetraethyl ester
To an ice bath chilled solution of 35% potassium hydride in mineral oil (5.2 g; 0.045 moles) stirring under argon in 70 ml of DMSO (dry) is added a solution of tetraisopropylmethanediphosphonate (7.82 g; 0.023 moles) in 30 ml of DMSO. On completion of a dropwise addition, the resulting solution is stirred at room temperature for one hour. A solution of 2,3-bis(chloromethyl)pyridine (4.0 g; 0.023 mole) (crude product as isolated by K. Tsuda et.al., Chem Pharm Bull., 1, (1953), 142) in 15 ml of DMSO is slowly added and the reaction mixture is then heated at 90° C. for 1 hour. After cooling, the DMSO is removed under vacuum. 2.1 g (21%) of the desired product is purified via flash chromatography using a 5-15% ethanol in methylene chloride gradient on silica gel.

reactant | potassium hydride | [H-].[K+]
reactant | tetraisopropylmethanediphosphonate | 0.023 moles, 7.82 g | C(C)(C)OP(OC(C)C)(=O)CP(OC(C)C)(=O)OC(C)C | C13H30O6P2
reactant | 2,3-bis(chloromethyl)pyridine | 0.023 mole, 4.0 g | ClCC1=NC=CC=C1CCl | C7H7Cl2N
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | Dihydro-1-pyrindine-6,6-diphosphonic acid tetraethyl ester | C(C)OP(OCC)(=O)C1(C=C2C=CCNC2=C1)P(OCC)(=O)OCC | C16H27NO6P2
